US07888364B2
50 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 3-aminopyridine via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(pyridin-3-yl)terephthalamide. MS (Q1) 463 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | 2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(pyridin-3-yl)terephthalamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(=O)NC=1C=NC=CC1 | C24H16Cl2N4O2
